US08076336B2
6-((S)-sec-Butoxy)-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
(S)-Butan-2-ol (1.7 ml) was initially charged at RT with stirring and cooled almost to 0° C. with an ice bath. Subsequently, the mixture was admixed with portions of sodium hydride (85 mg). The suspension formed was heated to 55° C. for 1.5 h and then admixed with portions of 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.006a, 100 mg), suspended in (S)-butan-2-ol (2 ml) and DMF (2 ml). After stirring at 55° C. for 1 h, the mixture was admixed with water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and, after the desiccant had been filtered off, dried under reduced pressure. 105 mg of the title compound were isolated in sufficient purity. LC-MS rt: 0.81 min [M+H]+: 236.2 (met. b)

reactant | sodium hydride | 85 mg | [H-].[Na+]
reactant | 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 100 mg | ClC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C7H8ClN5
reactant | water | O | H2O
solvent | (S)-butan-2-ol | 2 ml | C[C@@H](CC)O | C4H10O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | (S)-Butan-2-ol | 1.7 ml | C[C@@H](CC)O | C4H10O
product | 6-((S)-sec-Butoxy)-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 105 mg | [C@H](C)(CC)OC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C11H17N5O
